US09406977B2
4-((1,1,2,3,3,3-hexafluoropropoxy)methyl)-1,3-dioxolan-2-one
Example 2 was prepared by combining 4-(hydroxymethyl)-1,3-dioxolan-2-one (100 g, 0.84 moles) (Huntsman, Salt Lake City, Utah) with potassium carbonate (23 g, 0.166 moles) and acetonitrile (200 mL) in a 600 mL Parr reactor. The reactor was warmed to 45° C. and hexafluoropropene (139 g, 0.92 moles) was added at a constant rate. The reactor was stirred until the decrease in pressure stopped. Volatile material was removed from the reaction mixture by rotary evaporation. The olefin of the desired product was present and was saturated by reaction with anhydrous HF at room temperature. Vacuum distillation was done to purify the product. The fraction that boiled at 145-150° C. at 3 T (0.4 kPa) was collected. The fraction was 97.5% pure. The product was analyzed by GC/MS and F-19 NMR. MCMB/LiFePO4 coin cells (2325) made and cycled as per Test Method E with Example 2 as the only electrolyte solvent had high impedance, and the capacity fade rate could not be calculated.

reactant | 4-(hydroxymethyl)-1,3-dioxolan-2-one | 0.84 moles, 100 g | OCC1OC(OC1)=O | C4H6O4
reactant | potassium carbonate | 0.166 moles, 23 g | C([O-])([O-])=O.[K+].[K+]
reactant | hexafluoropropene | 0.92 moles, 139 g | FC(C(=C(F)F)F)(F)F | C3F6
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 4-((1,1,2,3,3,3-hexafluoropropoxy)methyl)-1,3-dioxolan-2-one | FC(C(C(F)(F)F)F)(OCC1OC(OC1)=O)F | C7H6F6O4
